* C:\users\fabri\Mis Documentos\TC2\git\tc2\LTspice\TS6\TS6_2.asc
V1 Vi 0 AC 1 0
L1 Vi N001 {L1}
L3 N001 Vo {L3}
R1 Vo 0 {R}
C2 N001 0 {C2}
.ac dec 100 {f*0.1} {f*100}
.param f = 1
.param w0 = 2*pi*f
.param R = 1
.param L1 = (1.5*R)/w0
.param C2 = 4/(3*R*w0)
.param L3 = (0.5*R)/w0
.backanno
.end
