* C:\users\fabri\Mis Documentos\TC2\git\tc2\LTspice\TS5\TS5_Schaumann.asc
XU1 N004 N003 Vo opamp Aol=100K GBW=10Meg
XU2 N004 N002 N006 opamp Aol=100K GBW=10Meg
R3 N006 N003 {R}
R4 Vo N004 {R}
C2 N004 N006 {C}
C1 N003 0 {(1-a)*C}
R1 N003 N001 {R/b}
C3 N003 N001 {a*C}
R7 N002 0 {R/(1-d)}
R6 N002 N001 {R/d}
R2 N003 0 {R/(1-b)}
V1 Vi 0 AC 1 0
R8 N005 0 {R}
C4 N005 Vi {C}
XU3 N001 N005 N001 opamp Aol=100K GBW=10Meg
R5 N002 Vo {R}
.param wo = 2*pi*f
.lib opamp.sub
.param f = 300
.param C = 1/(Omega_z*wo)
.ac dec 10k {f/10} {f*10}
* Parametros frecuenciales
* Componentes
.param Omega_z = 1
.param R = Omega_z
.param wz = 1/3
* Transferencia
.param a = 0.5 * (1+c)
.param b = d/2
.param d = wz**2
.backanno
.end
