* C:\users\fabri\Mis Documentos\TC2\LTspice\TS4\TS4bis²\TS4bis2_pasivo.asc
R1 N001 N003 {R}
C1 N001 0 {C1}
L1 N001 0 {L1}
XU1 N004 N001 N004 opamp Aol=100K GBW=10Meg
R2 N002 N004 {R}
C2 N002 0 {C2}
L2 N002 0 {L2}
XU2 N005 N002 N005 opamp Aol=100K GBW=10Meg
R3 Vo N005 {R}
C3 Vo 0 {C3}
L3 Vo 0 {L3}
V1 N003 0 AC 1 0
.lib opamp.sub
.param R = 1K
.param f = 1
.param wo1 = 1 Q1 = 7.981
.param C1=Q1/(wo1*R*wo)
.param wo2 = 0.903 Q2=16.05
.param C2 = Q2/(wo2*R*wo)
.param L1=R/(wo1*Q1*wo)
.param L2 = R/(wo2*Q2*wo)
.param wo3 = 1.107 Q3 = 16.05
.param C3 = Q3/(wo3*R*wo)
.param L3 = R/(wo3*Q3*wo)
.ac dec 10k 0.1 10
.param wo = 2*pi*f
* .Componentes desnormalizados en impedancia
.backanno
.end
